US07348332B2
a) 2-Methylsulfanyl-3,4-dihydro-quinazoline hydroiodide
Methyl iodide (11.5 ml, 184 mmol) was added to a solution of 3,4-dihydro-1H-quinazoline-2-thione (7.55 g, 46 mmol) in ethanol (150 ml), and the mixture was heated to reflux (3.5 h). The majority of the solvent was then evaporated under reduced pressure, and the precipitate was collected by filtration and washed with a small amount of cold ethanol. The thus obtained title compound (9.60 g, 68%) was used in the next step without further purification.

reactant | Methyl iodide | 184 mmol, 11.5 ml | CI | CH3I
reactant | 3,4-dihydro-1H-quinazoline-2-thione | 46 mmol, 7.55 g | N1C(NCC2=CC=CC=C12)=S | C8H8N2S
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-Methylsulfanyl-3,4-dihydro-quinazoline hydroiodide | 9.60 g, 68% | I.CSC1=NC2=CC=CC=C2CN1 | InChI=1S/C9H10N2S.HI/c1-12-9-10-6-7-4-2-3-5-8(7)11-9;/h2-5H,6H2,1H3,(H,10,11);1H
